US09289419B2
Synthesis of (S)-tert-butyl 4-(3-hydroxypyrrolidin-1-yl)piperidine-1-carboxylate
Acetic acid (90 mg, 1.2 mmol) was added to solution of tert-butyl 4-oxopiperidine-1-carboxylate (300 mg, 1.5 mmol) and (S)-pyrrolidin-3-ol (140 mg, 1.7 mmol) in DCE (3 mL) at 10-15° C. and stirring was continued at the same temperature for 10 minutes. Sodium triacetoxyborohydride (957 mg, 4.5 mmol) was added portionwise to the reaction mixture and stirring was continued at 20-35° C. for 16 h. The reaction mixture was diluted with DCM, washed with water, dried over anhydrous sodium sulphate and concentrated under reduced pressure to afford 200 mg of the title compound.

reactant | Acetic acid | 1.2 mmol, 90 mg | C(C)(=O)O | C2H4O2
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 1.5 mmol, 300 mg | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | (S)-pyrrolidin-3-ol | 1.7 mmol, 140 mg | N1C[C@H](CC1)O | C4H9NO
reactant | Sodium triacetoxyborohydride | 4.5 mmol, 957 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 3 mL | ClCCCl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 4-(3-hydroxypyrrolidin-1-yl)piperidine-1-carboxylate | 200 mg | O[C@@H]1CN(CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C14H26N2O3
